US04000151
In the manner given in Example 3, 1-methyl-5-(o-chlorophenyl)-s-triazolo[4,3-a]quinoline is oxidized at low temperature with sodium periodate and ruthenium dioxide to give 2'-chloro-2-(3-methyl-4H-1,2,4-triazol-4-yl)benzophenone.

reactant | 1-methyl-5-(o-chlorophenyl)-s-triazolo[4,3-a]quinoline | CC1=NN=C2N1C1=CC=CC=C1C(=C2)C2=C(C=CC=C2)Cl | C17H12ClN3
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
catalyst | ruthenium dioxide | [Ru](=O)=O
product | 2'-chloro-2-(3-methyl-4H-1,2,4-triazol-4-yl)benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC=C1)N1C(=NN=C1)C)=O | C16H12ClN3O
